US07153855B2
A solution of N-{4-[2-(4-aminophenyl)-7-(butylamino)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-butylamine (62 mg, 0.15 mmol) in 1,2-dichloroethane (2 mL) was treated with cyclohexanone (0.02 mL, 0.22 mmol), acetic acid (0.04 mL, 0.72 mmol), and sodium triacetoxyborohydride (61 mg, 0.29 mmol). The resultant solution was stirred at room temperature for 18 hours. Saturated aqueous sodium bicarbonate was added dropwise followed by ether. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (4:1 to 2:1 hexanes-ethyl acetate) provided N-butyl-3-[2-(butylamino)-4-pyrimidinyl]-2-[4-(cyclohexylamino)phenyl]pyrazolo[1,5-a]pyridin-7-amine (54 mg, 73%) as an orange oil. 1H NMR (CDCl3): δ 7.94 (d, 1 H), 7.73 (d, 1 H), 7.39 (d, 2 H), 7.23 (m, 1 H), 6.59 (d, 2 H), 6.41 (d, 1 H), 6.03 (m, 1 H), 5.91 (d, 1 H), 5.11 (broad, 1 H), 3.66 (broad, 1 H), 3.44 (m, 2 H), 3.30 (m, 3 H), 2.05 (m, 2 H), 1.75–1.12 (m, 16 H), 0.95–0.92 (m, 6 H); MS m/z 512 (M+1). This material was treated with anhydrous hydrochloric acid in ether to provide the corresponding hydrochloride salt.

reactant | N-{4-[2-(4-aminophenyl)-7-(butylamino)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-butylamine | 0.15 mmol, 62 mg | NC1=CC=C(C=C1)C1=NN2C(C=CC=C2NCCCC)=C1C1=NC(=NC=C1)NCCCC | C25H31N7
reactant | cyclohexanone | 0.22 mmol, 0.02 mL | C1(CCCCC1)=O | C6H10O
reactant | acetic acid | 0.72 mmol, 0.04 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.29 mmol, 61 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | ether | CCOCC | C4H10O
product | N-butyl-3-[2-(butylamino)-4-pyrimidinyl]-2-[4-(cyclohexylamino)phenyl]pyrazolo[1,5-a]pyridin-7-amine | 54 mg, 73% | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NCCCC)C2=CC=C(C=C2)NC2CCCCC2 | C31H41N7
